US06376491B1
3-Methyl-4-(piperidin-3-ylmethoxy)-benzofuran-2-carboxylic acid ethyl ester (700 mg), pyridine-3-aldehyde (700 μl) and acetic acid (1 ml) were dissolved in THF (20 ml). The solution was stirred at room temperature for four hours. To the solution was added NaB(OAc)3H (1.4 g) and the resulting suspension was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate and washed with saturated sodium hydrogencarbonate solution and brine. The organic solvent was dried over anhydrous sodium sulfate and evaporated to dryness. The residue was purified by silica gel column chromatography developed by dichloromethane-methanol to give 3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-3-ylmethoxy)-benzofuran-2-carboxylic acid ethyl ester (777 mg) as a colorless oil. FAB-MS: m/z 409 (MH+); 1H-NMR (CDCl3): δ 1.15-2.30 (7H, m), 1.44 (3H, t, J=7 Hz), 2.58 (3H, s), 2.80 (1H, br d, J=11 Hz), 2.96 (1H, br d, J=8 Hz), 3.48 (1H, d, J=13.5 Hz), 3.57 (1H, d, J=13.5 Hz), 3.89 (1H, dd, J1=9 Hz, J2=8 Hz), 3.96 (1H, dd, J1=9 Hz, J2=5 Hz), 4.43 (2H, q, J=7 Hz), 6.57 (1H, d, J=8 Hz), 7.10 (1H, d, J=8 Hz), 7.21 (1H, dd, J1=8 Hz, J2=5 Hz), 7.28 (1H, t, J=8 Hz), 7.67 (1H, br d, J=8 Hz), 8.49 (1H, dd, J1=5 Hz, J2=1.5 Hz), 8.54 (1H, d, J=1.5 Hz).

reactant | 3-Methyl-4-(piperidin-3-ylmethoxy)-benzofuran-2-carboxylic acid ethyl ester | 700 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCC2CNCCC2 | C18H23NO4
reactant | pyridine-3-aldehyde | 700 μl | N1=CC(=CC=C1)C=O | C6H5NO
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | NaB(OAc)3H | 1.4 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methyl-4-(1-pyridin-3-ylmethyl-piperidin-3-ylmethoxy)-benzofuran-2-carboxylic acid ethyl ester | 777 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCC2CN(CCC2)CC=2C=NC=CC2 | C24H28N2O4
